US07388020B2
(iii) 2-Methyl-1H-indol-7-ol
Benzhydryl-2-methyl-1H-indol-7-yl-ether (85 mg, 0.271 mmol) in methanol (MeOH) (3 mL) and toluene (3 mL) was hydrogenated in the presence of 20% palladium hydroxide (Pd(OH)2) (40 mg) at 40 p.s.i for 70 min at room temperature. The catalyst was filtered off, filtrate concentrated and the residue purified by silica gel flash chromatography to give subtitled compound (20 mg).

reactant | Benzhydryl-2-methyl-1H-indol-7-yl-ether | 0.271 mmol, 85 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=CC2=CC=CC(=C12)OC=1C=CC=C2C=C(N(C12)C(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C44H36N2O
solvent | methanol | 3 mL | CO | CH4O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium hydroxide | 40 mg | [OH-].[Pd+2].[OH-]
product | 2-Methyl-1H-indol-7-ol | 20 mg | CC=1NC2=C(C=CC=C2C1)O | C9H9NO
